* C:\users\renata\Escritorio\UTN\Teoría de Circuitos II\Personal\TCII\Parciales\Priemer parcial\1P_pasivo.asc
R1 N001 Vi {R}
C1 N001 0 {C1}
L1 N001 0 {L1}
XU1 V1 N001 V1 opamp Aol=100K GBW=10Meg
R2 N002 V1 {R}
C2 N002 0 {C2}
L2 N002 0 {L2}
V1 Vi 0 AC 1
XU2 V2 N002 V2 opamp Aol=100K GBW=10Meg
.ac dec 100 1e-3 1e2
.lib opamp.sub
.param w0 = 1
.param R_n = 1
.param C1_n = q_/(w01*R_n)
.param w01 = 0.9562
.param w02 = 1/w01
.param q_ = 18.24
.param L1_n = 1/(q_*w01)
.param C2_n = q_/(w02*R_n)
.param L2_n = 1/(q_*w02)
.param ni = 1
.param nf = 1
.param R = R_n*ni
.param C1 = C1_n/(ni*nf)
.param L1 = (L1_n*ni)/nf
.param C2 = C2_n/(ni*nf)
.param L2 = (L2_n*ni)/nf
.backanno
.end
