* C:\users\renata\Escritorio\UTN\Teoría de Circuitos II\Personal\TCII\Parciales\Priemer parcial\Draft1.asc
XU1 N001 N004 N002 opamp Aol=100K GBW=10Meg
XU2 N003 N005 Vo opamp Aol=100K GBW=10Meg
R1 N001 Vo {R}
R2 N004 Vo {R2}
R3 0 N004 {R6}
R4 N002 N005 {R}
R5 N005 0 {R8}
C1 N003 N002 {C}
C2 N005 N006 {C}
V1 N006 0 AC 1
.param e2 = 0.259
.param k = 1.995
.param C = 1
.param R6 = 1
.param R2 = 0.965
.param R8 = 0.597
.param R = 0.829
.ac dec 100 1e-3 1e2
.lib opamp.sub
.backanno
.end
