* Z:\home\renata\Escritorio\UTN\Teoría de Circuitos II\Personal\TCII\Trabajos semanales\TS12\TPS12_ej2.asc
C2 N001 Vi {C2_n}
C1 0 Vo {C1_n}
L2 N001 0 {L2_n}
L1 Vi Vo {L1_n}
RL Vo 0 1
I1 0 Vi AC 1 0
.ac dec 100 1e-1 1e1
.param C1_n = 1/(2*nf)
.param C2_n = 3/(2*nf)
.param L1_n = 34/(27*nf)
.param f = 1
.param nf = 2*pi*f
.param L2_n = 2/(27*nf)
.backanno
.end
