* C:\users\renata\Escritorio\UTN\Teoría de Circuitos II\Personal\TCII\Trabajos semanales\TS6\TS6_1.asc
L1 0 1 1
L2 3 0 1
R1 1 0 1
R3 3 0 3
R2 3 1 2
V1 1 0 AC 1 Rser=1m
K L1 L2 1
.ac dec 100 0.1 1000
.net I(R3) V1
.backanno
.end
